US05106871
An ethyl acetate solution of 22.2 g of 2'-hydroxy4',6'-dimethoxy-3'-(3-methyl-2-butenyl)acetophenone was added into a sufficiently hydrogen gas-absorbed suspension of 1.5 g of 5% palladium-carbon in 20 ml of ethyl acetate, and the mixture was stirred at room temperature for 2 hours in a hydrogen gas atmosphere. After the reaction, the reaction mixture was filtered and the solvent was removed by distillation. The residue was recrystallized from n-hexane to obtain 20.4 g (yield=91.2%) of 2'-hydroxy-3'-isopentyl-4',6'-dimethoxyacetophenone in the form of a colorless needle.

reactant | 2'-hydroxy4',6'-dimethoxy-3'-(3-methyl-2-butenyl)acetophenone | 22.2 g | OC1=C(C(=CC(=C1CC=C(C)C)OC)OC)C(C)=O | C15H20O4
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2'-hydroxy-3'-isopentyl-4',6'-dimethoxyacetophenone | 20.4 g, yield=91.2% | OC1=C(C(=CC(=C1CCC(C)C)OC)OC)C(C)=O | C15H22O4
